US08541429B2
Step 8. Ethyl 8-{[3-chloro-4-(4-methylpiperazin-1-yl)phenyl]amino}-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [B13-X00-M03(C01)-D01]
A solution of ethyl 6-[(dimethylamino)methylene]-1,4,4-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate (0.50 g, 1.6 mmol) and N-[3-chloro-4-(4-methyl-piperazin-1-yl)-phenyl]-guanidine (0.48 g, 1.8 mmol) in anhydrous dimethylformamide was heated to 100° C. and kept at this temperature for 37 hours. After cooling, the mixture was diluted with water (50 mL) and the resulting precipitate was collected by filtration and dried to give the title compound (0.72 g, 85% yield) as a yellow solid.

reactant | ethyl 6-[(dimethylamino)methylene]-1,4,4-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 1.6 mmol, 0.50 g | CN(C)C=C1CC(C=2C(=NN(C2C1=O)C)C(=O)OCC)(C)C | C16H23N3O3
reactant | N-[3-chloro-4-(4-methyl-piperazin-1-yl)-phenyl]-guanidine | 1.8 mmol, 0.48 g | ClC=1C=C(C=CC1N1CCN(CC1)C)NC(=N)N | C12H18ClN5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | Ethyl 8-{[3-chloro-4-(4-methylpiperazin-1-yl)phenyl]amino}-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.72 g, 85% yield | ClC=1C=C(C=CC1N1CCN(CC1)C)NC1=NC=2C3=C(C(CC2C=N1)(C)C)C(=NN3C)C(=O)OCC | C26H32ClN7O2
